US07799822B2
Prepared using general procedure 57. Under an N2 atmosphere at −20° C., N,N-diisopropylethylamine (1.74 mL, 10.0 mmol) was added dropwise to a solution of (S)-3-hydroxypyrrolidin-2-one (500 mg, 5.0 mmol) in CH2Cl2 (8 mL). Trifluoromethanesulfonic anhydride (0.88 mL, 5.25 mmol) was added dropwise to this solution. Upon completion of addition, the mixture was stirred at −20° C. for 30 min. 6-Chloro-1,2,3,4-tetrahydroquinoline (1.26 g, 7.5 mmol) was added in one portion. The reaction was allowed to warm up to RT overnight. After 18 h, the reaction mixture was washed with saturated aqueous sodium bicarbonate (2×20 mL), brine (20 mL), dried over magnesium sulfate, and concentrated. Purification via silica gel chromatography using 0-30% ethyl acetate in hexane gave (R)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)pyrrolidin-2-one as a colorless oil (150 mg, 12%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=251.3; tR=2.77 min.

reactant | N,N-diisopropylethylamine | 10.0 mmol, 1.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-3-hydroxypyrrolidin-2-one | 5.0 mmol, 500 mg | O[C@@H]1C(NCC1)=O | C4H7NO2
reactant | Trifluoromethanesulfonic anhydride | 5.25 mmol, 0.88 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 6-Chloro-1,2,3,4-tetrahydroquinoline | 7.5 mmol, 1.26 g | ClC=1C=C2CCCNC2=CC1 | C9H10ClN
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)pyrrolidin-2-one | 150 mg, 12% | ClC=1C=C2CCCN(C2=CC1)[C@H]1C(NCC1)=O | C13H15ClN2O
